US08227615B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-isobutylpyridin-2-yl)cyclopropanecarboxamide was prepared from 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide and isobutylzinc(II) chloride in a manner analogous to that of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(cyclohexylmethyl)pyridin-2-yl)cyclopropanecarboxamide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)Br | C16H13BrN2O3
reactant | isobutylzinc(II) chloride | [Cl-].C(C(C)C)[Zn+]
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(cyclohexylmethyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)CC2CCCCC2 | C23H26N2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-isobutylpyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)CC(C)C | C20H22N2O3
